US06906075B2
N-butyl-N-(1H-benzoimidazol-2-ylmethyl)-2,3-difluorobenzamide (226 mg, 0.66 mmol) was dissolved in 3 mL dimethylacetamide at room temperature. Sodium hydride (29 mg, 0.72 mmol, 60% oil dispersion) was added and the reaction mixture stirred 5 minutes. Cis-1,4-Dichloro-2-butene was added and the reaction mixture stirred 90 minutes. The reaction mixture was diluted with 10 mL ethyl acetate, placed in a separatory funnel and washed 1×10 mL H2O then 1×10 mL brine. The organic phase was dried over MgSO4, filtered, concentrated, then purified by flash chromatography eluting with 1/1 ethyl acetate/hexane to afford 206 mg 2,3-difluoro-N-butyl-N-[(4-chlorobut-2-enyl)-1H-benzoimidazol-2-ylmethyl]-benzamide.

reactant | N-butyl-N-(1H-benzoimidazol-2-ylmethyl)-2,3-difluorobenzamide | 0.66 mmol, 226 mg | C(CCC)N(C(C1=C(C(=CC=C1)F)F)=O)CC1=NC2=C(N1)C=CC=C2 | C19H19F2N3O
reactant | Sodium hydride | 0.72 mmol, 29 mg | [H-].[Na+]
reactant | Cis-1,4-Dichloro-2-butene | ClC\C=C/CCl | C4H6Cl2
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2,3-difluoro-N-butyl-N-[(4-chlorobut-2-enyl)-1H-benzoimidazol-2-ylmethyl]-benzamide | 206 mg | FC1=C(C(=O)N(C(C2=NC3=C(N2)C=CC=C3)CC=CCCl)CCCC)C=CC=C1F | C23H24ClF2N3O
